US07915250B2
To a solution of 2,3,4-trifluorobenzoic acid (1 g, 5.68 mmol) and 4-bromo-2-chloroaniline (1.2 g, 5.68 mmol) in acetonitrile (10 mL) was added lithium amide (0.39 g, 17.04 mmol) and the reaction stirred at 60° C. for 1.5 hours. The mixture was cooled to room temperature and then to 0° C. and acidified with aq. hydrochloric acid. The obtained precipitate was collected by filtration and washed with cold water and dried in vacuo to afford 2[(4-bromo-2-chlorophenyl)amino]-3,4-difluorobenzoic acid (1.92 g, 94% yield) as a beige solid. MS (EI) for C13H7BrClF2NO2: 363 (MH+).

reactant | 2,3,4-trifluorobenzoic acid | 5.68 mmol, 1 g | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | 4-bromo-2-chloroaniline | 5.68 mmol, 1.2 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | lithium amide | 17.04 mmol, 0.39 g | [NH2-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2[(4-bromo-2-chlorophenyl)amino]-3,4-difluorobenzoic acid | 1.92 g, 94% yield | BrC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC(=C1F)F)Cl | C13H7BrClF2NO2
